US09056874B2
tert-Butyl 5-(difluoromethoxy)-4-formyl-7-methyl-1H-indole-1-carboxylate
To a solution of tert-butyl 5-(difluoromethoxy)-7-methyl-4-(prop-1-en-1-yl)-1H-indole-1-carboxylate (1.83 g, 5.42 mmol) in dioxane (40 mL) and water (13.56 mL) at 0° C., 2,6-lutidine (1.26 mL, 10.85 mmol), OsO4 (1.36 mL, 0.108 mmol) (2.5% in t-BuOH) and NaIO4 (4.64 g, 21.70 mmol) were added and the reaction was stirred at room temperature. After 1 hour the reaction was diluted with DCM and the layers separated. The organics were washed with sat. NH4Cl and water, dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-40% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.45 (s, 1H) 7.93 (d, J=3.54 Hz, 1H) 7.37 (d, J=3.54 Hz, 1H) 7.34 (t, J=73.6 Hz, 1H) 7.16 (s, 1H) 2.63 (s, 3H) 1.61 (s, 9H). MS (ESI+) m/z 326.2 (M+H).

reactant | tert-butyl 5-(difluoromethoxy)-7-methyl-4-(prop-1-en-1-yl)-1H-indole-1-carboxylate | 5.42 mmol, 1.83 g | FC(OC=1C(=C2C=CN(C2=C(C1)C)C(=O)OC(C)(C)C)C=CC)F | C18H21F2NO3
reactant | 2,6-lutidine | 10.85 mmol, 1.26 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | water | 13.56 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | OsO4 | 0.108 mmol, 1.36 mL | O=[Os](=O)(=O)=O
product | tert-Butyl 5-(difluoromethoxy)-4-formyl-7-methyl-1H-indole-1-carboxylate | FC(OC=1C(=C2C=CN(C2=C(C1)C)C(=O)OC(C)(C)C)C=O)F | C16H17F2NO4
